US07625914B2
20 g (147 mmol) of aluminum chloride are added portionwise to a solution of 10 g (67 mmol) of ethyl thiophene-3-carboxylate in 160 ml of dichloromethane, cooled beforehand to 0° C. The reaction medium is warmed to room temperature and a solution of 4 ml (73 mmol) of bromine in 10 ml of dichloromethane is then added. After reaction for 50 minutes at room temperature, the reaction medium is poured into a water+ice mixture and extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and evaporated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 9/1 heptane/ethyl acetate mixture. 9 g (57%) of ethyl 5-bromothiophene-3-carboxylate are obtained.

reactant | aluminum chloride | 147 mmol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl thiophene-3-carboxylate | 67 mmol, 10 g | S1C=C(C=C1)C(=O)OCC | C7H8O2S
reactant | bromine | 73 mmol, 4 ml | BrBr | Br2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 5-bromothiophene-3-carboxylate | 9 g, 57% | BrC1=CC(=CS1)C(=O)OCC | C7H7BrO2S
